US08207174B2
1-(3-(hydroxymethyl)phenoxy)-3-(1-(2-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propan-2-ol
Synthesis followed SP6 (iPrOH:DMSO 1:1, 1.2 eq. DIEA, 120° C., 90 h), using 150 μmol (3-(oxiran-2-ylmethoxy)phenyl)methanol and 1-(2-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine HCl-salt to give the title compound with 20% yield upon purification by prep. HPLC (reversed phase) and subsequent by prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 4:6:1).

reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | (3-(oxiran-2-ylmethoxy)phenyl)methanol | 150 μmol | O1C(C1)COC=1C=C(C=CC1)CO | C10H12O3
reactant | 1-(2-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine HCl-salt | Cl.CC=1N=C(C2=C(N1)SC=C2)N2CCC(CC2)N
solvent | iPrOH DMSO | CC(C)O.CS(=O)C
product | 1-(3-(hydroxymethyl)phenoxy)-3-(1-(2-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propan-2-ol | 20% yield | OCC=1C=C(OCC(CNC2CCN(CC2)C=2C3=C(N=C(N2)C)SC=C3)O)C=CC1 | C22H28N4O3S
